US04556711
5-[4-(3-Methylureido)phenyl]-2(1H)-pyrazinone
5-(4-Aminophenyl)-2(1H)-pyrazinone hydrochloride (1.0 g) was suspended in dimethylformamide (30 ml) and triethylamine (1.2 ml) was added. The dark solution was filtered. Methyl isocyanate (0.53 ml) was added and the mixture was stirred for 17 hours at room temperature. The mixture was evaporated to dryness and the black residue washed with water; the insoluble material was collected by filtration and then reprecipitated from dimethylformamide solution with water. The precipitate was filtered off and the filtrate evaporated to dryness. The cream-coloured residue was collected to afford the title compound, m.p.>300° C.; C12H12N4O2Calculated: C 59.01; H 4.95; N 22.94: Found: C 59.09; H 4.94; N 22.90: νmax (liquid paraffin) 1675, 1642 cm-1 ; N.m.r. δ(DMSO-d6) 2.76 (d, 3H, CH3), 5.98 (q, 1H, --NHCH3), 7.91, 8.08 (2d, 2H, pyridine H's).

reactant | 5-(4-Aminophenyl)-2(1H)-pyrazinone hydrochloride | 1.0 g | Cl.NC1=CC=C(C=C1)C=1N=CC(NC1)=O
reactant | triethylamine | 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 5-[4-(3-Methylureido)phenyl]-2(1H)-pyrazinone | CNC(NC1=CC=C(C=C1)C=1N=CC(NC1)=O)=O | C12H12N4O2
